US08461149B2
Step 7: 4-((R)-5-((R)-3,3-difluorocyclopentyl)-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-ylamino)-N-ethyl-3-methoxybenzamide
Concentrated hydrochloric acid (36 □l) was added to a mixture of (R)-7-chloro-5-((R)-3,3-difluorocyclopentyl)-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridine (70 mg, 0.21 mmol) and 4-amino-N-ethyl-3-methoxybenzamide (59.84 mg, 0.31 mmol) in ethanol (0.9 mL) and water (3.6 mL). The reaction mixture was heated to 95° C. and stirred for 18 hours. The reaction mixture was concentrated in vacuo. The residue was taken up with ethyl acetate, washed with an aqueous saturated solution of sodium bicarbonate and brine. The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was purified on silica gel by flash column chromatography to afford the desired compound as a white solid (82 mg, 80% yield).

reactant | hydrochloric acid | Cl | ClH
reactant | (R)-7-chloro-5-((R)-3,3-difluorocyclopentyl)-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridine | 0.21 mmol, 70 mg | ClC1=NC=2N([C@@H](C=3N(C2C=N1)C=NN3)CC)[C@H]3CC(CC3)(F)F | C14H15ClF2N6
reactant | 4-amino-N-ethyl-3-methoxybenzamide | 0.31 mmol, 59.84 mg | NC1=C(C=C(C(=O)NCC)C=C1)OC | C10H14N2O2
solvent | ethanol | 0.9 mL | C(C)O | C2H6O
solvent | water | 3.6 mL | O | H2O
product | 4-((R)-5-((R)-3,3-difluorocyclopentyl)-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-ylamino)-N-ethyl-3-methoxybenzamide | 82 mg, 80% yield | FC1(C[C@@H](CC1)N1[C@@H](C=2N(C=3C=NC(=NC13)NC1=C(C=C(C(=O)NCC)C=C1)OC)C=NN2)CC)F | C24H28F2N8O2
